US06011028
hexahydro-7-[2-(4-pyridinyl)ethyl]-2H-azepin-2-imine, monohydrochloride;
4-[2-(hexahydro-7-imino-1H-azepin-2-yl)ethyl]-1-methylpyridinium chloride, monohydrochloride salt;

reactant | 4-[2-(hexahydro-7-imino-1H-azepin-2-yl)ethyl]-1-methylpyridinium chloride | [Cl-].N=C1CCCCC(N1)CCC1=CC=[N+](C=C1)C
reactant | monohydrochloride | Cl | ClH
product | hexahydro-7-[2-(4-pyridinyl)ethyl]-2H-azepin-2-imine, monohydrochloride | Cl.N1=CC=C(C=C1)CCC1CCCCC(N1)=N | InChI=1S/C13H19N3.ClH/c14-13-4-2-1-3-12(16-13)6-5-11-7-9-15-10-8-11;/h7-10,12H,1-6H2,(H2,14,16);1H
